US05849735
Pyrido[2,3-b][1,4]benzoxazepin-6(5H)-one
A mixture of 21.4 g of phenyl salicylate, 25.71 g 3-amino-2-chloropyridine and 20 ml of 1,2,4-trichlorobenzene is refluxed for 1 hour under argon and the liberated phenol and HCl simultaneously distilled (from the refluxing mixture) and collected in a solution of 1N NaOH. The hot mixture is poured into 200 ml of ethanol and the precipitated solid collected by filtration. The solid is washed with ethanol and dried Recrystallization from methanol--DMF (6:1) gives 6.0 g of product, m.p. 268°-270° C.

reactant | phenyl salicylate | 21.4 g | C(C=1C(O)=CC=CC1)(=O)OC1=CC=CC=C1 | C13H10O3
reactant | 3-amino-2-chloropyridine | 25.71 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
solvent | 1,2,4-trichlorobenzene | 20 ml | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
product | Pyrido[2,3-b][1,4]benzoxazepin-6(5H)-one | 6.0 g | N1=CC=CC2=C1OC1=C(C(N2)=O)C=CC=C1 | C12H8N2O2
